US07459472B2
To a solution of 5-Bromo-3-fluoro-2-hydroxy-benzaldehyde (2.0 g, 9.13 mmol), in DMF (10 mL) was added Cs2CO3 (3.56 g, 10.95 mmol) and iodomethane (2.59 g, 18.26 mmol) and heated at 70° C. for 6 h. Reaction mixture was diluted with EtOAc (25 mL) and filtered, filtrate was washed with water, brine and dried over Na2SO4. Solvent was removed under reduced pressure and silicagel column chromatography (EtOAc:Hex, 1:3) gave pure 5-Bromo-3-fluoro-2-methoxy-benzaldehyde (2.0 g).

reactant | 5-Bromo-3-fluoro-2-hydroxy-benzaldehyde | 9.13 mmol, 2.0 g | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
reactant | Cs2CO3 | 10.95 mmol, 3.56 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 18.26 mmol, 2.59 g | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-3-fluoro-2-methoxy-benzaldehyde | 2.0 g | BrC=1C=C(C(=C(C=O)C1)OC)F | C8H6BrFO2
